US03976633
A solution of the sodium salt prepared from 10.0 g. (0.026 mol.) of 1,3-bis(2-cyano-5-trifluoromethylphenyl)-triazene and 1.4 g. (0.029 mol.) of sodium hydride in 700 ml. of ether is added dropwise to a solution of 4.65 g. (0.03 mol.) of succinyl chloride in 150 ml. of ether. The reaction mixture is stirred for 12 hours at 25°, filtered and the filtrate is concentrated in vacuo. The residue is washed with hexane, ether is added and the precipitate is removed by filtration. The volume is brought to 500 ml. with ether and a small amount of water is added. The mixture is stirred for 12 hours and the ethereal solution is dried (MgSO4) and concentrated in vacuo to give 3-(3-carboxypropionyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene.

reactant | sodium | [Na] | Na
reactant | 1,3-bis(2-cyano-5-trifluoromethylphenyl)-triazene | 0.026 mol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
reactant | sodium hydride | 0.029 mol | [H-].[Na+]
reactant | succinyl chloride | 0.03 mol | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
reactant | ether | CCOCC | C4H10O
product | 3-(3-carboxypropionyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | C(=O)(O)CCC(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N | C20H11F6N5O3
